US07135475B2
A mixture of 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-nitro-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (45 mg, 0.07 mmol) in methanol (30 mL) was treated with 10% palladium on carbon (45 mg). The reaction mixture was subjected to 48 psi pressure of hydrogen gas in a Parr apparatus for 2 h. At this time, the reaction mixture was filtered through a pad of celite and washed with methanol. The filtrate was concentrated in vacuo to afford 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-1-(5-amino-2-fluoro-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (39.8 mg, 92.9%) as an off-white solid: LR-MS for C31H37FN6O5 (M−H)+ at m/z=591.

reactant | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-nitro-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 0.07 mmol, 45 mg | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(N(C(C3N2COC(C(C)(C)C)=O)=O)CC2=C(C=CC(=C2)[N+](=O)[O-])F)=O)CCCC)C=C1 | C31H35FN6O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 45 mg | [Pd] | Pd
product | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-1-(5-amino-2-fluoro-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 39.8 mg, 92.9% | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(N(C(C3N2COC(C(C)(C)C)=O)=O)CC2=C(C=CC(=C2)N)F)=O)CCCC)C=C1 | C31H37FN6O5
